US06531477B1
To a stirred solution of 105 mg (0.22 mmol) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one and 235 mg (1.09 mmol) of Boc-L-proline in 2 mL of DMF was added 0.35 mL (2.5 mmol) of triethylamine followed by 490 mg (1.11 mmol) of Bop. The solution was stirred overnight at ambient temperature then poured into EtOAc. This solution was washed sequentally with 0.5 M HCl then dilute aq. Na2CO3 then brine, dried (MgSO4), and concentrated under reduced pressure. The crude product was recrystallized from EtOAc-hexanes to afford 116 mg (80%) of (S)-1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(N-t-butoxycarbonylprolinamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as a white solid, mp 225-226° C., Mass spec.: 657 M−H−).

reactant | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.22 mmol, 105 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)N)C(C)C | C21H18Cl3N5O
reactant | Boc-L-proline | 1.09 mmol, 235 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(N-t-butoxycarbonylprolinamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 116 mg, 80% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)N(C([C@H]2NCCC2)=O)C(=O)OC(C)(C)C)C(C)C | C31H33Cl3N6O4
